US07371769B2
a) Preparation of 2-methoxy-5-(2-hydroxyethyl)-6-methyl-3H-pyrimidin-4-one.
To a solution of O-methylisourea hydrogen sulfate (17.2 g, 0.1 mol) in water (90 ml) was added calcium hydroxide (8.14 g, 0.11 mol) followed by a solution of 2-acetylbutyrolactone (10.7 ml, 0.1 mol) in ethanol (70 ml). The mixture was stirred at room temperature for two days, filtered and washed with ethanol. The filtrate was concentrated in vaccuum and purified by flash chromatografy (dichloromethane/methanol=95/5). Yield 2.6 g (14%) of a white solid.

reactant | O-methylisourea hydrogen sulfate | 0.1 mol, 17.2 g | S(=O)(=O)(O)O.COC(N)=N
reactant | calcium hydroxide | 0.11 mol, 8.14 g | [OH-].[Ca+2].[OH-]
reactant | 2-acetylbutyrolactone | 0.1 mol, 10.7 ml | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | water | 90 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-methoxy-5-(2-hydroxyethyl)-6-methyl-3H-pyrimidin-4-one | COC1=NC(=C(C(N1)=O)CCO)C | C8H12N2O3
